US07645764B2
4-Methyl-3-(8-methyl-2-methylsulfanyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-yl)-benzamide (100 mg, 0.294 mmol) was taken up in 6 mL DMFDMA, and the reaction mixture was heated to reflux for 10 minutes, then cooled and concentrated under reduced pressure. The resulting residue was taken up in 10 mL HOAc, and hydrazine (0.24 g, 7.638 mmol) was added. The reaction mixture was stirred at room temperature for 20 minutes, and the resulting precipitate was collected by filtration and washed with water to give 60 mg of 8-methyl-2-methylsulfanyl-6-[2-methyl-5-(4H-[1,2,4]triazol-3-yl)-phenyl]-8H-pyrido[2,3-d]pyrimidin-7-one, MS (M+H)=365.

reactant | 4-Methyl-3-(8-methyl-2-methylsulfanyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-yl)-benzamide | 0.294 mmol, 100 mg | CC1=C(C=C(C(=O)N)C=C1)C1=CC2=C(N=C(N=C2)SC)N(C1=O)C | C17H16N4O2S
reactant | hydrazine | 7.638 mmol, 0.24 g | NN | H4N2
reactant | DMFDMA | 6 mL | CN(C)C(OC)OC | C5H13NO2
product | 8-methyl-2-methylsulfanyl-6-[2-methyl-5-(4H-[1,2,4]triazol-3-yl)-phenyl]-8H-pyrido[2,3-d]pyrimidin-7-one | 60 mg | CN1C(C(=CC2=C1N=C(N=C2)SC)C2=C(C=CC(=C2)C2=NN=CN2)C)=O | C18H16N6OS
